US05179098
To a stirred suspension of sodium hydride (0.65g, 55% dispersion in oil, pre-washed with petrol) in dry DMF (5ml) at 10-15° C under nitrogen, was added a solution of imidazole (1.02g, 15 mmol) over five minutes. The reaction mixture effervesced and an exotherm took place. After stirring for 11/2hours at room temperature, the cloudy solution was added drop-wise over one hour to a solution of 4,6-dichloropyrimidine in dry DMF (10ml) at 0° C. for one hour, added to water and then extracted with ether (×3). The combined ether extracts were washed with dilute sodium hydroxide solution and water (×3) and then dried. Concentration under reduced pressure gave 4-chloro-6-(imidazol-1-yl)pyrimidine as a pale yellow solid (1.00g); m.p. 122-4° C., which was used without further purification.

reactant | sodium hydride | 0.65g | [H-].[Na+]
reactant | imidazole | 15 mmol, 1.02g | N1C=NC=C1 | C3H4N2
reactant | 4,6-dichloropyrimidine | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | water | O | H2O
solvent | DMF | 5ml | CN(C)C=O | C3H7NO
solvent | DMF | 10ml | CN(C)C=O | C3H7NO
product | 4-chloro-6-(imidazol-1-yl)pyrimidine | 1.00g | ClC1=NC=NC(=C1)N1C=NC=C1 | C7H5ClN4
